US05362915
3-(3-Cyclopentyloxy-4-methoxyphenyl)cyclopent-2-en-1-one (E7)
To a solution of 4-bromo-2-cyclopentyloxy-1-methoxybenzene (preparation 4) (9.50 g, 35.0 mmol) in tetrahydrofuran (70 ml) at -78° C. under an argon atmosphere was added dropwise n-butyllithium (15 ml of 2.5M solution, 37.5 mmol). The resulting mixture was stirred at -78° C. for 1.25 hr and added dropwise to a cooled solution (0° C.) of 3-isopropoxy-2-cyclopentenone (4.95 g, 35.3 mmol) in tetrahydrofuran (20 ml). Upon completion of the addition, the reaction mixture was allowed to warm to room temperature and was stirred for 1.5 hr. Hydrochloric acid (70 ml of 0.6N solution) was added to the reaction mixture and stirring was continued for 2.5 hr. The reaction mixture was poured into water and extracted with methylene chloride (four times). The combined organic extracts were dried (magnesium sulfate), the solvent was removed in vacuo and the residue was purified by flash chromatography, eluting with 1:4:5 methylene chloride/ether/hexanes. Recrystallization from methylene chloride/ether/hexanes provided needles (5.5 g, 63%): m.p. 136°-137° C. Analysis:

reactant | 4-bromo-2-cyclopentyloxy-1-methoxybenzene | 35.0 mmol, 9.50 g | BrC1=CC(=C(C=C1)OC)OC1CCCC1 | C12H15BrO2
reactant | n-butyllithium | 37.5 mmol, 2.5M, 15 ml | C(CCC)[Li]
reactant | 3-isopropoxy-2-cyclopentenone | 35.3 mmol, 4.95 g | C(C)(C)OC1=CC(CC1)=O | C8H12O2
reactant | Hydrochloric acid | 0.6N, 70 ml | Cl | ClH
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(3-Cyclopentyloxy-4-methoxyphenyl)cyclopent-2-en-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(CC1)=O | C17H20O3
